US07153855B2
To a solution of 4-{7-(cyclopentylamino)-3-[2-(cyclopentylamino)-4-pyrimidinyl]pyrazolo[1,5-a]pyridin-2-yl}phenol (100 mg, 0.22 mmol) in N,N-dimethylformamide (5 mL) was added allyl bromide (21 μL, 0.24 mmol) and potassium carbonate (122 mg, 0.88 mmol). The mixture was heated at reflux for 3 hours. The mixture was allowed to cool to room temperature and water was added. The mixture was extracted with ethyl acetate. The ethyl acetate phase was dried (magnesium sulfate), filtered and concentrated to a solid. The residue was purified by flash chromatography (1:1 ethyl acetate:hexanes) to give 2-[4-(allyloxy)phenyl]-N-cyclopentyl-3-[2-(cyclopentylamino)-4-pyrimidinyl]pyrazolo[1,5-a]pyridin-7-amine (67 mg, 61%) as a yellow solid. 1H NMR (CDCl3): δ 7.94 (d, 1H), 7.73 (d, 1H), 7.53 (d, 2H), 7.24 (t, 1H), 6.95 (d, 2H), 6.28 (d, 1H), 6.08–5.96 (m, 3H), 5.41 (dd, 1H), 5.27 (dd, 1H), 5.10 (d, 1H), 4.56 (d, 2H), 4.32 (m, 1H), 3.95 (m, 1H), 2.10–2.00 (m, 4H), 1.76–1.45 (m, 12H); MS m/z 495 (M+1); Anal. Calcd for C30H34N6O: C, 72.86; H, 6.93; N16.99. Found: C, 72.47; H, 7.05; N, 16.75.

reactant | 4-{7-(cyclopentylamino)-3-[2-(cyclopentylamino)-4-pyrimidinyl]pyrazolo[1,5-a]pyridin-2-yl}phenol | 0.22 mmol, 100 mg | C1(CCCC1)NC1=CC=CC=2N1N=C(C2C2=NC(=NC=C2)NC2CCCC2)C2=CC=C(C=C2)O | C27H30N6O
reactant | allyl bromide | 0.24 mmol, 21 μL | C(C=C)Br | C3H5Br
reactant | potassium carbonate | 0.88 mmol, 122 mg | C([O-])([O-])=O.[K+].[K+]
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 5 mL | CN(C=O)C | C3H7NO
product | 2-[4-(allyloxy)phenyl]-N-cyclopentyl-3-[2-(cyclopentylamino)-4-pyrimidinyl]pyrazolo[1,5-a]pyridin-7-amine | 67 mg, 61% | C(C=C)OC1=CC=C(C=C1)C1=NN2C(C=CC=C2NC2CCCC2)=C1C1=NC(=NC=C1)NC1CCCC1 | C30H34N6O
